* C:\Users\circuit\spice\tb_my_comparator.asc
V1 CLK 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
VIN VINP N001 {VIN}
V4 N001 0 0.9
V5 VDD 0 1.8
E1 VINN N001 VINP N001 -1
C1 VOUTP 0 10f
C2 VOUTN 0 10f
M1 FN VINN N004 0 CMOSN l={L2} w={W2} m={M2}
M2 N004 CLK 0 0 CMOSN l={L3} w={W3} m={M3}
M3 FP CLK VDD VDD CMOSP l={L4} w={W4} m={M4}
M4 FN CLK VDD VDD CMOSP l={L5} w={W5} m={M5}
M5 FP VINP N004 0 CMOSN l={L1} w={W1} m={M1}
M6 VOUTP FP 0 0 CMOSN l={L6} w={W6} m={M6}
M7 VOUTP VOUTN 0 0 CMOSN l={L7} w={W7} m={M7}
M8 N002 FP 0 0 CMOSN l={L8} w={W8} m={M8}
M9 VOUTP VOUTN N002 VDD CMOSP l={L9} w={W9} m={M9}
M10 N002 FP VDD VDD CMOSP l={L10} w={W10} m={M10}
M11 VOUTN FN 0 0 CMOSN l={L11} w={W11} m={M11}
M12 VOUTN VOUTP 0 0 CMOSN l={L12} w={W12} m={M12}
M13 N003 FN 0 0 CMOSN l={L13} w={W13} m={M13}
M14 VOUTN VOUTP N003 VDD CMOSP l={L14} w={W14} m={M14}
M15 N003 FN VDD VDD CMOSP l={L15} w={W15} m={M15}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
*.step dec param VIN 0.1m 10m
.tran 40n
.meas tl when V(VOUTP) = 1.72
.op
.param L = 0.18u
.param L1 = L
.param W1 = L1*10
.param M1 = 1
.param L2 = L
.param W2 = L2*10
.param M2 = 1
.param L3 = L
.param W3 = L3*10
.param M3 = 1
.param L4 = L
.param W4 = L4*10
.param M4 = 1
.param L5 = L
.param W5 = L5*10
.param M5 = 1
.param L6 = L
.param W6 = L6*10
.param M6 = 1
.param L7 = L
.param W7 = L7*10
.param M7 = 1
.param L8 = L
.param W8 = L8*10
.param M8 = 1
.param L9 = L
.param W9 = L9*10
.param M9 = 1
.param L10 = L
.param W10 = L10*10
.param M10 = 1
.param L11 = L
.param W11 = L11*10
.param M11 = 1
.param L12 = L
.param W12 = L12*10
.param M12 = 1
.param L13 = L
.param W13 = L13*10
.param M13 = 1
.param L14 = L
.param W14 = L14*10
.param M14 = 1
.param L15 = L
.param W15 = L15*10
.param M15 = 1
.include tsmc018.mdl
.param VIN 5m
.backanno
.end
